US06380249B1
2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid (isomers A and B) (G1 and G2)
Isomer A: 2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid ethyl ester (isomer A from above) was dissolved in 2 mLs methanol, and to it was added 1 mL of a 1M solution of sodium hydroxide in water. After stirring for 4 hr, the reaction was poured into 5 mL sodium hydroxide and extracted three times with diethyl ether. The aqueous layer was then acidified via the addition of excess 10% citric acid and extracted three times with ethyl acetate. The ethyl acetate extracts were combined and washed with water, brine, dried over anhydrous sodium sulfate, filtered, and the solvent removed in vacuo. The residue was triturated in 3:1 hexane/diethyl ether, filtered and the solvent removed in vacuo to yield the title compound as a yellow solid. 1H NMR (CDCl3) δ1.72-1.91(3H,m), 2.20(1H,m), 2.80-3.00(2H,m), 4.22(1H, t, J=7.14Hz), 6.77(1H, d, J=7.69 Hz), 7.03(1H, t, J=7.42Hz), 7.11-7.19(3H,m), 7.31(1H, d, J=7.69Hz), 7.41(1H, t, J=7.69Hz), 7.80(1H,s), 7.84(1H, d, J=7.88Hz).

reactant | 2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid ethyl ester | C(C)OC(C(CC(C1=CC(=CC=C1)C1CCCC2=CC=CC=C12)=O)=O)=O | C22H22O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | methanol | 2 mLs | CO | CH4O
solvent | water | O | H2O
product | 2,4-dioxo-4-[3-(1,2,3,4-tetrahydronaphthalen-1-yl)-phenyl]butyric acid | O=C(C(=O)O)CC(C1=CC(=CC=C1)C1CCCC2=CC=CC=C12)=O | C20H18O4
